US05068379
Preparation of N,N-bis(trimethylsilyl)Methanesulfonamide (5a)
A glass reactor equipped with a stirrer, nitrogen inlet, reflux condenser and addition funnel was purged with nitrogen and charged with 29.1 g (0.30 mol) of methanesulfonamide, MeSO2NH2, where Me represents the methyl radical, 84.9 ml (0.605 mol) of triethylamine and 240 ml of dry benzene. Trimethylchlorosilane (129.5 ml, 1.00 mol) was then added through the addition funnel over a period of 15 minutes to the stirred mixture, followed by heating at the boiling point for three hours. The mixture was then diluted with 200 ml of hexane and stirring was continued for 30 minutes.

reactant | methanesulfonamide | 0.30 mol, 29.1 g | CS(=O)(=O)N | CH5NO2S
reactant | triethylamine | 0.605 mol, 84.9 ml | C(C)N(CC)CC | C6H15N
reactant | benzene | 240 ml | C1=CC=CC=C1 | C6H6
reactant | Trimethylchlorosilane | 1.00 mol, 129.5 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | hexane | 200 ml | CCCCCC | C6H14
product | N,N-bis(trimethylsilyl)Methanesulfonamide | C[Si](N(S(=O)(=O)C)[Si](C)(C)C)(C)C | C7H21NO2SSi2
